US08236806B2
1-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-4-(3,4-dichlorophenyl)piperazine (Compound 9)
74 mg (47%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal (80 mg, 0.312 mmol), 1-(3,4-dichlorophenyl)piperazine (72 mg, 0.312 mmol), DIPEA (82 mL, 0.468 mmol) and NaBH(OAc)3 (198 mg, 0.936 mmol).

reactant | 3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal | 0.312 mmol, 80 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C16H20N2O
reactant | 1-(3,4-dichlorophenyl)piperazine | 0.312 mmol, 72 mg | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | DIPEA | 0.468 mmol, 82 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.936 mmol, 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-4-(3,4-dichlorophenyl)piperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCCN1CCN(CC1)C1=CC(=C(C=C1)Cl)Cl | C26H32Cl2N4
